* IRIS post-layout RC-augmented simulation deck
.options savecurrents reltol=1e-4 vabstol=1e-8 iabstol=1e-12 method=gear
.temp 27
.param pin_dbm=-20
.param freq_hz=60000000.0
.param load_res=30000.0
.param pin_w = 1e-3*pow(10,pin_dbm/10)
.param vhalf_peak = sqrt(100*pin_w)*9.0
.include /workspace/iris_c3a247b9-0025-43e1-bae8-42a940fa0b63/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /workspace/iris_c3a247b9-0025-43e1-bae8-42a940fa0b63/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
VSP srcp 0 SIN(0 {vhalf_peak} {freq_hz})
VSN srcn 0 SIN(0 {-vhalf_peak} {freq_hz})
RSP srcp rfp_ext 25
RSN srcn rfn_ext 25
RRFP rfp_ext rfp 15.405814999999999
CRFP rfp 0 1.0037209999999999e-13
RRFN rfn_ext rfn 16.111819999999998
CRFN rfn 0 1.050788e-13
XHARV rfp rfn vout_ext 0 iris_harvester_post
RVOUT vout_ext vout 16.263935
CVOUT vout 0 1.006336e-13
RLOAD vout 0 30000.0
.tran 0.2n 80u 0 0.2n
.meas tran vrect_avg AVG v(vrect) from=60u to=80u
.meas tran vout_avg AVG v(vout) from=60u to=80u
.meas tran vout_max MAX v(vout) from=60u to=80u
.control
run
wrdata /workspace/iris_c3a247b9-0025-43e1-bae8-42a940fa0b63/iris_rf/results/postlayout/post_f060mhz_pm20dbm_wave.csv time v(vout) v(vrect) v(rfp) v(rfn)
write /workspace/iris_c3a247b9-0025-43e1-bae8-42a940fa0b63/iris_rf/results/postlayout/post_f060mhz_pm20dbm.raw
quit
.endc
.subckt iris_harvester_post rfp rfn vout vss
RVR1 vrect_int vrect 59.20737499999999
CVR1 vrect 0 3.5719424999999994e-13
XBIAS rfp rfn gatep gaten vrect_int vss iris_startup_bias
XRECT rfp rfn gatep gaten vrect_int vss iris_rectifier
XPUMP rfp rfn vrect_int n1_int n2_int vout vss iris_charge_pump_post
.ends iris_harvester_post
.subckt iris_startup_bias rfp rfn gatep gaten vrect vss
RGP gatep rfp 1m
RGN gaten rfn 1m
CINJP rfn gatep 0.6p
CINJN rfp gaten 0.6p
MPBIASP gatep vrect vrect vrect pmos_3p3 w=4.0u l=1.0u nf=1 m=1
MPBIASN gaten vrect vrect vrect pmos_3p3 w=4.0u l=1.0u nf=1 m=1
MNBIASP gatep vss vss vss nmos_3p3 w=2.0u l=1.0u nf=1 m=1
MNBIASN gaten vss vss vss nmos_3p3 w=2.0u l=1.0u nf=1 m=1
.ends iris_startup_bias
.subckt iris_rectifier rfp rfn gatep gaten vrect vss
MPP1 vrect gaten rfp vrect pmos_3p3 w=40.0u l=0.28u nf=4 m=1
MPP2 vrect gatep rfn vrect pmos_3p3 w=40.0u l=0.28u nf=4 m=1
MNN1 rfp gaten vss vss nmos_3p3 w=20.0u l=0.28u nf=4 m=1
MNN2 rfn gatep vss vss nmos_3p3 w=20.0u l=0.28u nf=4 m=1
.ends iris_rectifier
.subckt iris_charge_pump_post rfp rfn vrect n1 n2 vout vss
RN1A n1_int n1 10.223825
CN1A n1 0 6.134295e-14
RN2A n2_int n2 10.223825
CN2A n2 0 6.134295e-14
MCP1 vrect vrect n1_int n1_int nmos_3p3 w=16.0u l=0.28u nf=4 m=1
MCP2 n1 n1 n2_int n2_int nmos_3p3 w=16.0u l=0.28u nf=4 m=1
MCP3 n2 n2 vout vout nmos_3p3 w=16.0u l=0.28u nf=4 m=1
CCP1 rfp n1 1.2p
CCP2 rfn n2 1.2p
CCP3 rfp vout 1.2p
CSTORE vout vss 20.0p
.ends iris_charge_pump_post
.end
